US07468204B2
Alternate synthesis of co-cyclohexane-tertiary butyl isophthalate polymer (CCH-tbia) Using 1,4 CHDA
Synthesis of the co-cyclohexane-tbia was carried out in a batch reactor which was charged with the following raw materials: 1,4 cyclohexane dicarboxylic acid (37 kg), tertiary butyl isophthalic acid (59.9 kg), 1,4 cyclohexane dimethanol (37.8 kg), neopentyl glycol (11.2 kg), ethylene glycol (60.3 kg), trimethylol propane (0.5 kg), and antimony (III) acetate (90 g). Under a pressure of 2 atmospheres (2×105 N/m2), this mixture was heated to 254 degrees C. while removing the reaction by-product, water. After completing this reaction and removing the water, the pressure was gradually reduced to 1 torr (263 N/m2) while heating to 290° C. The condensation by-product, ethylene glycol, was continuously removed until a polymer with intrinsic viscosity of 0.72 dl/g, as measured in 60/40 wt % phenol/o-dichlorobenzene, was produced. The polymer had a glass transition temperature of about 67° C. as measured by DSC with a temperature ramp of 20° C./min. This CCH-tbia had a refractive index of 1.519 as measured with a Metricon refractometer at 632 nm.

reactant | 1,4 cyclohexane dicarboxylic acid | 37 kg | C1(CCC(CC1)C(=O)O)C(=O)O | C8H12O4
reactant | tertiary butyl isophthalic acid | 59.9 kg | C(C)(C)(C)C1=C(C(=O)O)C=CC=C1C(=O)O | C12H14O4
reactant | 1,4 cyclohexane dimethanol | 37.8 kg | C1(CCC(CC1)CO)CO | C8H16O2
reactant | neopentyl glycol | 11.2 kg | OCC(C)(CO)C | C5H12O2
reactant | trimethylol propane | 0.5 kg | C(O)C(CC)(CO)CO | C6H14O3
reactant | antimony (III) acetate | 90 g | C(C)(=O)[O-].[Sb+3].C(C)(=O)[O-].C(C)(=O)[O-]
solvent | ethylene glycol | 60.3 kg | C(CO)O | C2H6O2
product | cyclohexane tertiary butyl isophthalate | C1CCCCC1.C(C1=CC(C(=O)[O-])=CC=C1)(=O)OC(C)(C)C | InChI=1S/C12H14O4.C6H12/c1-12(2,3)16-11(15)9-6-4-5-8(7-9)10(13)14;1-2-4-6-5-3-1/h4-7H,1-3H3,(H,13,14);1-6H2/p-1
